US07247628B2
2-[5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-4-(propane-2-sulfonyl)-morpholine (6A-1)
To a stirred suspension of 2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride 5A-2 (75 mg, 0.18 mmol) and triethylamine (49 μL, 0.36 mmol) in dichloromethane (0.5 ml) was added isopropylsulfonyl chloride (0.22 μL 0.2 mmol) dropwise. After stirring for 18 h, the reaction was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (silica, 40–50% ethyl acetate/hexanes) to give the title compound 6A-1 as a colorless foam (49 mg).

reactant | 2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride | 0.18 mmol, 75 mg | Cl.ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)C)C1CNCCO1
reactant | triethylamine | 0.36 mmol, 49 μL | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 0.2 mmol, 0.22 μL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 2-[5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-4-(propane-2-sulfonyl)-morpholine | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=CC=C1)Cl)C1CN(CCO1)S(=O)(=O)C(C)C)C | C23H25Cl2N3O3S
